US09388144B2
To a solution of (5S,12S,16S)-tri-tert-butyl 1-(9H-fluoren-9-yl)-3,6,14-trioxo-5-(4-(2-(4,7,10-tris(2-(tert-butoxy)-2-oxoethyl)-1,4,7,10-tetraazacyclododecan-1-yl)acetamido)butyl)-2-oxa-4,7,13,15-tetraazaoctadecane-12,16,18-tricarboxylate (115 mg) containing some impurity in DMF (0.30 mL) and piperidine (0.30 mL) was stirred at rt for 1 hr. Solvents were evaporated under reduced pressure to give a residue, which was purified by Biotage eluting with DCM to 10% MeOH in DCM to give (8S,15S,19S)-tri-tert-butyl 8-amino-2,9,17-trioxo-1-(4,7,10-tris(2-(tert-butoxy)-2-oxoethyl)-1,4,7,10-tetraazacyclododecan-1-yl)-3,10,16,18-tetraazahenicosane-15,19,21-tricarboxylate (64 mg, 90%) as a colorless oil. MS (ESI), 1171.6 (M+H)+.

reactant | (5S,12S,16S)-tri-tert-butyl 1-(9H-fluoren-9-yl)-3,6,14-trioxo-5-(4-(2-(4,7,10-tris(2-(tert-butoxy)-2-oxoethyl)-1,4,7,10-tetraazacyclododecan-1-yl)acetamido)butyl)-2-oxa-4,7,13,15-tetraazaoctadecane-12,16,18-tricarboxylate | 115 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@H](C(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CCCCNC(CN1CCN(CCN(CCN(CC1)CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)=O)=O | C73H117N9O17
reactant | piperidine | 0.30 mL | N1CCCCC1 | C5H11N
solvent | DMF | 0.30 mL | CN(C)C=O | C3H7NO
product | (8S,15S,19S)-tri-tert-butyl 8-amino-2,9,17-trioxo-1-(4,7,10-tris(2-(tert-butoxy)-2-oxoethyl)-1,4,7,10-tetraazacyclododecan-1-yl)-3,10,16,18-tetraazahenicosane-15,19,21-tricarboxylate | 64 mg, 90% | N[C@@H](CCCCNC(CN1CCN(CCN(CCN(CC1)CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)=O)C(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O | C58H107N9O15
